US07371769B2
b) Preparation of 3-(2-chloroethyl)-2,9-dimethyl-4H-pyrido[1,2-a]-pyrimidin-4-one.
To a solution of 2-amino-3-picoline (3.3 9, 30 mmol) in phosphorus oxychloride (11 ml) was added 2-acetylbutyrolactone (3.25 ml, 30 mmol). The mixture was heated at 100° C. for 18 hours, cooled, poured on ice, made basic with a 2N sodium hydroxide solution and extracted with ethyl acetate. The organic layer was separated, dried, concentrated and purified by silica gel column chromatography (dichloromethane/methanol=95/5). Yield 2.5 g (35%) of white solid.

reactant | 2-amino-3-picoline | 30 mmol | NC1=NC=CC=C1C | C6H8N2
reactant | 2-acetylbutyrolactone | 30 mmol, 3.25 ml | C(C)(=O)C1C(=O)OCC1 | C6H8O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | phosphorus oxychloride | 11 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-(2-chloroethyl)-2,9-dimethyl-4H-pyrido[1,2-a]-pyrimidin-4-one | ClCCC1=C(N=C2N(C1=O)C=CC=C2C)C | C12H13ClN2O
